US05939368
b) 1-methoxy-2-methyl-3-phenylpropane
220 ml (1.9 mole) of KH (35% in oil) were placed, under a N2 -atmosphere, into a 4.5 l reactor and washed 4 times with pentane, in order to remove all traces of oil. 1.5 l of dry tetrahydrofurane were added before the dropwise addition of a solution of 259 g (1.73 mole) of 1-hydroxy-2-methyl-3-phenylpropane and 500 ml of dry tetrahydrofurane. The reaction was stirred for 15 hours at room temperature. Then 285 g (2.01 mole) of methyl iodide were added dropwise over a period of 2 hours, and stirring was continued at room temperature for another 2 hours. A possible excess of KH was hydrolyzed by adding 50 ml of methanol, then the reaction mixture was poured on ice. The product was taken up in ether, which was washed 3 times with a saturated NH4Cl solution and then with brine to neutrality. After drying over Na2SO4, the solution was filtered, concentrated and then distilled over a Vigreux-type column (boiling point: 100° C. at 5×102Pa).

reactant | tetrahydrofurane | 1.5 l | O1CCCC1 | C4H8O
reactant | 1-hydroxy-2-methyl-3-phenylpropane | 1.73 mole, 259 g | OCC(CC1=CC=CC=C1)C | C10H14O
reactant | tetrahydrofurane | 500 ml | O1CCCC1 | C4H8O
reactant | methyl iodide | 2.01 mole, 285 g | CI | CH3I
reactant | methanol | 50 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 1-methoxy-2-methyl-3-phenylpropane | COCC(CC1=CC=CC=C1)C | C11H16O
